US04117128
5-Chloro-3-[4-(3-diethylaminopropoxy)phenylsulfonyl]-2-phenylbenzofuran
Reaction of 5-chloro-3-(4-hydroxyphenylsulfonyl)-2-phenylbenzofuran with 3-diethylaminopropyl chloride according to the procedure of Example 1 gives the title compound.

reactant | 5-chloro-3-(4-hydroxyphenylsulfonyl)-2-phenylbenzofuran | ClC=1C=CC2=C(C(=C(O2)C2=CC=CC=C2)S(=O)(=O)C2=CC=C(C=C2)O)C1 | C20H13ClO4S
reactant | 3-diethylaminopropyl chloride | C(C)N(CCCCl)CC | C7H16ClN
product | 5-Chloro-3-[4-(3-diethylaminopropoxy)phenylsulfonyl]-2-phenylbenzofuran | ClC=1C=CC2=C(C(=C(O2)C2=CC=CC=C2)S(=O)(=O)C2=CC=C(C=C2)OCCCN(CC)CC)C1 | C27H28ClNO4S
